US07572792B2
To a flask in an ice-bath was added 1-(diphenylmethyl)azetidin-3-one (3.0 g, 12.6 mmol), trimethylsilylcyanide (1.69 ml, 12.6 mmol) and diethyl ether (1 ml) followed by addition of zinc iodide (0.003 g). This gave a yellow suspension which turned to an orange solution after 20 mins stirring at room temperature. To the solution was added a solution of morpholine (1.1 g, 12.6 mmol) in methanol (6 ml). The solution was then refluxed overnight and no starting material remained by tlc. The reaction mixture was evaporated to dryness and the product crystallised from ethyl acetate/iso-hexane to give 1-(diphenylmethyl)-3-morpholin-4-ylazetidine-3-carbonitrile as a pale yellow crystalline solid. Analytical LCMS: single peak (214 nm), 5.74 min.

reactant | 1-(diphenylmethyl)azetidin-3-one | 12.6 mmol, 3.0 g | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | trimethylsilylcyanide | 12.6 mmol, 1.69 ml | C[Si](C)(C)C#N | C4H9NSi
reactant | diethyl ether | 1 ml | C(C)OCC | C4H10O
reactant | morpholine | 12.6 mmol, 1.1 g | N1CCOCC1 | C4H9NO
solvent | methanol | 6 ml | CO | CH4O
catalyst | zinc iodide | 0.003 g | [I-].[Zn+2].[I-]
product | 1-(diphenylmethyl)-3-morpholin-4-ylazetidine-3-carbonitrile | C1(=CC=CC=C1)C(N1CC(C1)(C#N)N1CCOCC1)C1=CC=CC=C1 | C21H23N3O
